US03954476
The 5-acetamido-1-hydroxynaphthalene-2-sulfonamide was prepared by dissolving 10.8 g. of 5-acetamido-1-acetoxynaphthalene-2-sulfonyl chloride in 10 ml. dry chloroform and heating on the steam bath with 25.0 g. anhydrous ammonium carbonate for 2.5 hours. The yellow-brown solid was dissolved by heating with 50 ml. water on the steam bath for 4 hours. Acidification with dilute hydrochloric acid to pH 5 caused the sulfonamide to precipitate. It was filtered off, washed and dried, yielding 5.61 g. (63%).

reactant | 5-acetamido-1-acetoxynaphthalene-2-sulfonyl chloride | C(C)(=O)NC1=C2C=CC(=C(C2=CC=C1)OC(C)=O)S(=O)(=O)Cl | C14H12ClNO5S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 5-acetamido-1-hydroxynaphthalene-2-sulfonamide | C(C)(=O)NC1=C2C=CC(=C(C2=CC=C1)O)S(=O)(=O)N | C12H12N2O4S
